US07851469B2
6-{4-[3-(4-Chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-N-cyclopropyl-nicotinamide
As described for Example 48b, 6-{4-[3-(4-chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinic acid methyl ester (100 mg, 0.23 mmol), was converted, using cyclopropylamine instead of cyclopropanemethylamine, to the title compound (80 mg, 76%) which was obtained as a white solid. MS: m/e=474.1 [M+H]+.

reactant | 6-{4-[3-(4-chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinic acid methyl ester | 0.23 mmol, 100 mg | COC(C1=CN=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)Cl)=O | C20H12ClF3N4O3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 6-{4-[3-(4-Chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-N-cyclopropyl-nicotinamide | 80 mg, 76% | ClC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=NC=C(C(=O)NC2CC2)C=C1)C(F)(F)F | C22H15ClF3N5O2
